US07820699B2
11.4 Using general procedure A with DMF as solvent (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester hydrochloride was reacted with 2-bromo-[2-fluoro-4-(2-oxo-pyridin-1-yl)-phenyl]-acetamide to give (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-1-{[2-fluoro-4-(2-oxo-pyridin-1-yl)-phenylcarbamoyl]-methyl}-pyrrolidine-2-carboxylic acid methyl ester. White solid. MS 533.2 ([M+H]+)

reactant | (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)[C@H]1NC[C@@H](C1)NC(=O)C=1SC(=CC1)Cl
reactant | 2-bromo-[2-fluoro-4-(2-oxo-pyridin-1-yl)-phenyl]-acetamide | BrC(C(=O)N)C1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C13H10BrFN2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | (2S,4R)-4-[(5-chloro-thiophene-2-carbonyl)-amino]-1-{[2-fluoro-4-(2-oxo-pyridin-1-yl)-phenylcarbamoyl]-methyl}-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(C[C@@H](C1)NC(=O)C=1SC(=CC1)Cl)CC(NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F)=O | C24H22ClFN4O5S
